US07842758B2
4-Iodo-N,N-dihexylaniline
4-Iodoaniline (15.05 g, 6.87×10−2 mol), K2CO3 (19.00 g, 0.137 mol), 1-iodohexane (32.0 ml, 0.217 mol) and dry DMF (170 ml) were added to a 500-ml two-neck round-bottom flask. Ar was bubbled into the reaction mixture for 10 min. The reaction mixture was stirred at 90° C. for 16 h and at 100° C. for 2.5 h under Ar. After cooling, the reaction mixture was filtered to remove inorganic solids. Solvents were removed in vacuo, and water was added to the reaction mixture. The organic layers were extracted with CHCl3, washed with aq. NaHCO3 and water, and dried over Na2SO4. The residue was chromatographed on silica gel 4:1 hexane:CHCl3 as the eluent. Yield=20.47 g (77% based on 15.05 g of 4-iodoaniline). 1H NMR (250 MHz, CDCl3): δ 7.41 (d, 2H, J=8.8 Hz, Ph), 6.40 (d, 2H, J=9.1 Hz, Ph), 3.20 (t, 4H, J=7.6 Hz, —NCH2—), 1.43-1.61 (m, 4H, —NCH2CH2—), 1.18-1.37 (m, 12H, —CH2—), 0.89 (t, 6H, J=6.5 Hz, —CH3). CI MS m/z: 388.149 ((M+H)+) (calcd 388.150).

reactant | 4-Iodoaniline | 6.87×10−2 mol, 15.05 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | K2CO3 | 0.137 mol, 19.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodohexane | 0.217 mol, 32.0 ml | ICCCCCC | C6H13I
solvent | DMF | 170 ml | CN(C)C=O | C3H7NO
product | 4-Iodo-N,N-dihexylaniline | IC1=CC=C(N(CCCCCC)CCCCCC)C=C1 | C18H30IN
